US06956050B2
STEP 1. 4-chloro-N-{[(2-{4-[2-ethyl-4-(4-fluorophenyl)-1H-imidazol-1-yl]phenyl}ethyl)amino]carbonyl}benzenesulfonamide
The title compound was prepared according to the procedure described in step 2 of Example 18 from phenyl 2-{4-[2-ethyl-4-(4-fluorophenyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate and 4-chlorobenzenesulfonamide. MS (ESI) m/z 527 [M+H]+, 525 [M−H]−, 1H-NMR (CDCl3) δ 1.24 (3H, t, J=7.5 Hz), 2.69 (2H, q, J=7.5 Hz), 2.83-2.90 (2H, m), 3.45-3.54 (2H, m), 6.50 (1H, br), 7.05 (2H, t, J=8.8 Hz), 7.18 (1H, s), 7.22-7.30 (2H, m), 7.42-7.52 (3H, m), 7.70-7.79 (4H, m).

reactant | phenyl 2-{4-[2-ethyl-4-(4-fluorophenyl)-1H-imidazol-1-yl]phenyl}ethylcarbamate | C(C)C=1N(C=C(N1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)CCNC(OC1=CC=CC=C1)=O | C26H24FN3O2
reactant | 4-chlorobenzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N | C6H6ClNO2S
product | 4-chloro-N-{[(2-{4-[2-ethyl-4-(4-fluorophenyl)-1H-imidazol-1-yl]phenyl}ethyl)amino]carbonyl}benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)NC(=O)NCCC1=CC=C(C=C1)N1C(=NC(=C1)C1=CC=C(C=C1)F)CC | C26H24ClFN4O3S
